US07994163B2
4-Acetylsulfanyl-1-tert-butoxycarbonyl-2-methyl-imidazole:
Dissolve 2-methyl-1H-imidazole-4-sulfonyl chloride (430 mg, 2.38 mmol) in acetic acid (13 mL). Add a solution of tin(II) chloride dihydrate (2.80 g, 12.4 mmol) in concentrated hydrochloric acid (2.2 mL) and heat at 75° C. for 45 min. Cool the mixture to room temperature and concentrate in vacuo. Dissolve the yellow precipitate in DCM (15 mL), basify with triethylamine and add di-tert-butyl dicarbonate (1.04 g, 4.76 mmol). Stir the mixture at room temperature for 72 h. Partition the mixture between water and DCM and filter the mixture through Celite®. Separate and dry the organic phase over MgSO4, filter, and concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel (40 g) eluting with DCM/(chloroform:methanol:concentrated NH4OH) [100:0 (5 min), 19:1 (5 min), 9:1 (5 min), 4:1 (5 min), 3:1; flow rate: 50 mL/min)]. Purify the material by additional chromatography on silica gel (40 g) eluting with DCM/(chloroform:methanol:concentrated NH4OH) [100:0 (5 min), 19:1 (5 min), 9:1 (5 min), 4:1; flow rate: 50 mL/min] to give the title compound (205 mg, 34%). MS (ES+) m/z: 257 (M+H)+.

reactant | 2-methyl-1H-imidazole-4-sulfonyl chloride | 2.38 mmol, 430 mg | CC=1NC=C(N1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | tin(II) chloride dihydrate | 12.4 mmol, 2.80 g | O.O.[Sn](Cl)Cl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.76 mmol, 1.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2.2 mL | Cl | ClH
product | 4-Acetylsulfanyl-1-tert-butoxycarbonyl-2-methyl-imidazole | 205 mg, 34% | C(C)(=O)SC=1N=C(N(C1)C(=O)OC(C)(C)C)C | C11H16N2O3S
